US04085211
In a reactor cooled to -78° C. in an acetone-dry ice bath is placed methyl 3,5-diaminopyrazinoate (6 g.) and liquid hydrogen fluoride (70 ml.). A stream of fluorinehelium mixture (1:4 v /v) is passed through the solution for 51/2 hours at <78° C. followed by a vigorous stream of nitrogen to remove the solvent. The reaction residue is treated with conc. hydrochloric acid (60 ml.) evaporated to dryness, dissolved in water (75 ml.) and neutralized with aqueous sodium hydroxide to give methyl 3,5-diamino-6-fluoropyrazinoate (5 g.) which is purified by sublimation (140°-50° C, 0.05 mm Hg) and recrystalliation from 2-propanol.

reactant | methyl 3,5-diaminopyrazinoate | 6 g | NC=1C(=NC=C(N1)N)C(=O)OC | C6H8N4O2
reactant | hydrogen fluoride | 70 ml | F | FH
product | methyl 3,5-diamino-6-fluoropyrazinoate | 5 g | NC=1C(=NC(=C(N1)N)F)C(=O)OC | C6H7FN4O2
